US09238639B2
A) 2-Fluoro-1-methoxy-5-methyl-3-(methylsulfanyl)benzene
To a mixture of 1-fluoro-2-methoxy-4-methylbenzene (1.0 g) and THF (dry) (60 mL) was added sec-butyllithium (1.04 mol/L cyclohexane solution, 13.72 mL) dropwise over a period of 20 min at −78° C. After stirring at −78° C. for 20 min, to the mixture was added dimethyl disulfide (1.41 mL) at the same temperature. The mixture was stirred at −78° C. under argon atmosphere for 1 h. The mixture was quenched with saturated aqueous NH4Cl at −78° C. and extracted with EtOAc. The combined organic layer was washed with brine, dried over MgSO4, filtered and concentrated in vacuo. The residue was purified by silica gel column chromatography (EtOAc/hexane) to give the title compound (1.34 g).

reactant | 1-fluoro-2-methoxy-4-methylbenzene | 1.0 g | FC1=C(C=C(C=C1)C)OC | C8H9FO
reactant | sec-butyllithium | 1.04 mol/L, 13.72 mL | C(C)(CC)[Li]
reactant | dimethyl disulfide | 1.41 mL | CSSC | C2H6S2
solvent | THF | 60 mL | C1CCOC1 | C4H8O
product | 2-Fluoro-1-methoxy-5-methyl-3-(methylsulfanyl)benzene | 1.34 g | FC1=C(C=C(C=C1SC)C)OC | C9H11FOS
